US08426411B2
A solution of 8-(piperidin-4-yl)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine (0.100 g, 0.269 mmol, Preparation #DDDDD.1), 1H-pyrazole-1-carboximidamid, hydrochloride (0.118 g, 0.807 mmol) and DIEA (0.188 mL, 1.08 mmol) in DMF (2 mL) was stirred at rt for about 72 h. The reaction mixture was purified by RP-HPLC (Table 1, Method 1) to give 4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)piperidine-1-carboximidamide (0.037 g, 33%) as a brown oil: LC/MS (Table 1, Method b) Rt=1.82 min; MS m/z: 414 (M+H)+.

reactant | 8-(piperidin-4-yl)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine | 0.269 mmol, 0.100 g | N1CCC(CC1)C1=CN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C | C19H29N5OSi
reactant | 1H-pyrazole-1-carboximidamid, hydrochloride | 0.807 mmol, 0.118 g | Cl.N1(N=CC=C1)C(N)=N
reactant | DIEA | 1.08 mmol, 0.188 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)piperidine-1-carboximidamide | 0.037 g, 33% | C[Si](CCOCN1C=CC2=C1N=CC=1N2C(=CN1)C1CCN(CC1)C(N)=N)(C)C | C20H31N7OSi
